US07608627B2
1H-Pyrrolo[2,3-c]pyridine-2-carboxaldehyde (125 mg, 0.86 mmol) was suspended in tetrahydrofuran (5 mL) at −30° C. under a nitrogen atmosphere. Isopropylmagnesium bromide in diethyl ether (0.87 mL, 1.74 mmol) was added dropwise. The reaction mixture was slowly warmed to room temperature. After stirring for ca. 3 h, the reaction mixture was cooled to −30° C. and additional 2.0 M isopropylmagnesium bromide in diethyl ether (0.22 mL, 0.44 mmol) was added. The reaction mixture was stirred for another 1 h, while warming to room temperature. The reaction mixture was poured into a 2:1 solution of saturated ammonium chloride and water, and extracted with ethyl acetate (3×). The combined organic extracts were washed with water and brine, dried over sodium sulfate, and concentrated. The crude product was purified by Biotage chromatography (2 to 10% methanol in methylene chloride) to provide 2-methyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)-1-propanol (86 mg, 53%) as a white solid: mp 140-144° C.; 1H NMR (500 MHz, CD3OD) δ0.99 (6H, m), 2.01-2.25 (1H, m), 4.57-4.65 (1H, m), 6.38 (1H, s), 7.51 (1H, s), 8.00 (1H, s), 8.63 (1H, s); ESI MS m/z 191 [C11H14N2O+H]+; HPLC (Method A) >99% (AUC), tR=13.1 min.

reactant | 1H-Pyrrolo[2,3-c]pyridine-2-carboxaldehyde | 0.86 mmol, 125 mg | N1C(=CC=2C1=CN=CC2)C=O | C8H6N2O
reactant | Isopropylmagnesium bromide | C(C)(C)[Mg]Br
reactant | diethyl ether | 1.74 mmol, 0.87 mL | C(C)OCC | C4H10O
reactant | isopropylmagnesium bromide | 2.0 M | C(C)(C)[Mg]Br
reactant | diethyl ether | 0.44 mmol, 0.22 mL | C(C)OCC | C4H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-methyl-1-(1H-pyrrolo[2,3-c]pyridin-2-yl)-1-propanol | 86 mg, 53% | CC(C(O)C1=CC=2C(=CN=CC2)N1)C | C11H14N2O
